US07276516B2
React Pyridin-2-yl-hydrazine and Phenyl-acetaldehyde under literature conditions (Azaindoles. I. Preparation of 7-azaindoles by thermal indolization of 2-pyridylhydrazones. Canadian Journal of Chemistry (1966), 44(21), 2455-9) to give N-Pyridin-2-yl-N′-styryl-hydrazine (10 g, 100% yield crude material) Mass Spectrum (m/e): 211.96 (MH+).

reactant | Pyridin-2-yl-hydrazine | N1=C(C=CC=C1)NN | C5H7N3
reactant | Phenyl-acetaldehyde | C1(=CC=CC=C1)CC=O | C8H8O
product | N-Pyridin-2-yl-N′-styryl-hydrazine | 10 g, 100% yield | N1=C(C=CC=C1)NNC=CC1=CC=CC=C1 | C13H13N3
